US08252826B2
1.3 [2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-cyclohexyl-acetic acid ethyl ester
(4-Chloro-phenyl)-hydrazine (5.63 g, 31 mmol; CAS Reg. No. 1073-69-4) was added to a solution of 2-cyclohexyl-3-oxo-3-(2-oxo-cyclopentyl)-propionic acid ethyl ester (8.8 g, 31 mmol) in ethanol (200 ml). The reaction mixture was heated under reflux conditions for 6 h. The solvent was removed under reduced pressure. The residue was suspended in dichloromethane and filtered off. The filtrate was brought to dryness under reduced pressure to give a brown oil which was purified by column chromatography (silica gel, iPrOAc/heptane) to give the title compound (6.26 g, 16 mmol; 51%) as orange oil. MS: m/e=388.4 [M+H+].

reactant | (4-Chloro-phenyl)-hydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | 2-cyclohexyl-3-oxo-3-(2-oxo-cyclopentyl)-propionic acid ethyl ester | 31 mmol, 8.8 g | C(C)OC(C(C(C1C(CCC1)=O)=O)C1CCCCC1)=O | C16H24O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | [2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-cyclohexyl-acetic acid ethyl ester | 16 mmol, 6.26 g, 51% | C(C)OC(C(C1CCCCC1)C=1N(N=C2C1CCC2)C2=CC=C(C=C2)Cl)=O | C22H27ClN2O2
